US07709481B2
A mixture of 3-[4-(2-Bromo-4-methyl-thiazol-5-ylmethoxy)-2-chloro-phenyl]-2H-[1,2,4]oxadiazol-5-one (300 mg, 0.7 mmol), Benzo[b]thiophene-2-boronic acid (142 mg, 0.8 mmol) and cesium carbonate (730 mg, 2.2 mol) in dimethylformamide (5 mL) and water (1 mL) is degassed using a stream of argon for 15 min. Tetrakis-triphenylphosphine-palladium (0) (34 mg, 0.03 mmol) is added and the mixture is warmed to 40° C. for 4 hours. The solvent is removed under reduced pressure and the residue is taken up in water (10 mL) and ethylacetate (30 mL). The phases are separated and the water phase is additionally extracted two-times with ethylacetate. The combined organic phases are dried over MgSO4 and the solvent is removed under reduced pressure. The crude product is purified using reverse phase HPLC to obtain 147 mg 3-[4-(2-Benzo[b]thiophen-2-yl-4-methyl-thiazol-5-ylmethoxy)-2-chloro-phenyl]-2H-[1,2,4]oxadiazol-5-one as an amorphous lyophilisate.

reactant | 3-[4-(2-Bromo-4-methyl-thiazol-5-ylmethoxy)-2-chloro-phenyl]-2H-[1,2,4]oxadiazol-5-one | 0.7 mmol, 300 mg | BrC=1SC(=C(N1)C)COC1=CC(=C(C=C1)C=1NOC(N1)=O)Cl | C13H9BrClN3O3S
reactant | Benzo[b]thiophene-2-boronic acid | 0.8 mmol, 142 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | cesium carbonate | 2.2 mol, 730 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
product | 3-[4-(2-Benzo[b]thiophen-2-yl-4-methyl-thiazol-5-ylmethoxy)-2-chloro-phenyl]-2H-[1,2,4]oxadiazol-5-one | 147 mg | S1C2=C(C=C1C=1SC(=C(N1)C)COC1=CC(=C(C=C1)C=1NOC(N1)=O)Cl)C=CC=C2 | C21H14ClN3O3S2
